US04031305
Preparation of 3-Chloro-2-hydroxypropanesulfonic acid
The sodium 3-chloro-2-hydroxypropanesulfonate reactant is added to the mixture, and the etherification reaction is conducted at 40° C over a period of 4 hours. The reaction mixture is neutralized to a pH of 8.3 with acetic acid, then filtered, washed twice with 50% isopropanol and once with 100% isopropanol. The galactomannan ether product is recovered and air-dried.

reactant | sodium 3-chloro-2-hydroxypropanesulfonate | ClCC(CS(=O)(=O)[O-])O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-hydroxypropanesulfonic acid | ClCC(CS(=O)(=O)O)O | C3H7ClO4S
